US04968829
Following the procedure of Example 9, 2[4-(3-methyl-2-butenoxy)phenoxy]ethanol and isopropyl isocyanate are reacted together to give O-2-[4-(3-methyl-2-butenoxy)phenoxy]ethyl N-isopropylcarbamate, MS, m/e 307 (M+).

reactant | 2[4-(3-methyl-2-butenoxy)phenoxy]ethanol | CC(=CCOC1=CC=C(OCCO)C=C1)C | C13H18O3
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
product | O-2-[4-(3-methyl-2-butenoxy)phenoxy]ethyl N-isopropylcarbamate | C(C)(C)NC(OCCOC1=CC=C(C=C1)OCC=C(C)C)=O | C17H25NO4
